US06440636B1
Production of 1-Acryloyloxy-3-hydroxyadamantane [2-1 (Acrylate)]
To a mixture of 10 mmole of 1,3-adamantanediol, 15 mmole of triethylamine, and 100 ml of tetrahydrofuran, 13 mmole of acrylic chloride was added drop wise over about 30 minutes. After the completion of addition, the resulting mixture was stirred at 50° C for 1.5 hours. Water was added to the reaction mixture; the mixture was then extracted with ethyl acetate; the organic layer was concentrated; and the concentrate was subjected to column chromatography on a silica gel to yield the title compound in a yield of 63%.

reactant | 1,3-adamantanediol | 10 mmole | C12(CC3(CC(CC(C1)C3)C2)O)O | C10H16O2
reactant | triethylamine | 15 mmole | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | acrylic chloride | 13 mmole | C(C=C)(=O)Cl | C3H3ClO
solvent | Water | O | H2O
product | 1-Acryloyloxy-3-hydroxyadamantane | yield of 63% | C(C=C)(=O)OC12CC3(CC(CC(C1)C3)C2)O | C13H18O3
